US07875618B2
1-Cyclohexyl-8-fluoro-3-methyl-imidazo(1,5-a)quinoxalin-4-yl-amine
640 mg 4-Chloro-1-cyclohexyl-8-fluoro-3-methyl-imidazo(1,5-a)quinoxaline (2 mmol) and 30 ml 32% aqueous ammonia were heated 7 hours at 130-135° C. After cooling the product was filtered off, washed with water, dried and chromatographed on silica gel with 2% MeOH/CH2Cl2.

reactant | 4-Chloro-1-cyclohexyl-8-fluoro-3-methyl-imidazo(1,5-a)quinoxaline | 2 mmol, 640 mg | ClC=1C=2N(C3=CC(=CC=C3N1)F)C(=NC2C)C2CCCCC2 | C17H17ClFN3
reactant | ammonia | 30 ml | N | H3N
product | 1-Cyclohexyl-8-fluoro-3-methyl-imidazo(1,5-a)quinoxalin-4-yl-amine | C1(CCCCC1)C1=NC(=C2N1C1=CC(=CC=C1N=C2N)F)C | C17H19FN4
